datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[C:63]1=[CH:62][CH:61]=[N:10][C:71]2=[C:72]1C=CC=C2>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([N+:10]2=[CH:61][CH:62]=[C:63](C)[C:72]3=[C:71]2C=CC=C3)[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.CC[O:82][C:71]([C-:10]1CCCCCC[C:62]1=[O:61])=[O:72]>>CC[O:82][C:71]([C:10]1([C:20]([O-:21])=[N:31]C2=CC=CC=C2)CCCCCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21"
"C[Si:73](C)(C)[O:12]/[CH:11]=[CH:10]/[CH:61]=[CH2:62].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>C[Si:73](C)(C)[O+:12]=[CH:11][CH:10]([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]2=[N:35]O[N:42]=[C:41]12)[CH:61]=[CH2:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.C[N:10](C)[NH2:61]>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N+:10](C)(C)[NH2:61])[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1.O=[N+]([O-])C1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>C[N:21](C)[CH:20]([CH:10](Cl)[S:61](C1=CC=C([N+](=O)[O-])C=C1)(=[O:62])=[O:72])[C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1 10=20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.[CH:10]1=[CH:11][CH:12]=[C:13]2[C:14]1=[CH:15][CH:66]=[CH:67][CH:68]=[CH:69]2>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:11]=[CH:12][C:13]3=[C:14]2[CH+:15][CH:66]=[CH:67][CH:68]=[CH:69]3)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14;20,21=21,22;22,23=23"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.C[C:11]([H:10])([CH:12]=[CH2:13])[CH:72]=[CH2:73]>>C1CC[C:22]([O-:23])=[CH:21][CH:20]([H:10])C1.C[C:11](=[CH:12][CH2+:13])[CH:72]=[CH2:73] 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1.FC1=C(F)C(F)=C([B-:11](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[H:10])C(F)=C1F>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1.FC1=C(F)C(F)=C([B:11](C2=C(F)C(F)=C(F)C(F)=C2F)C2=C(F)C(F)=C(F)C(F)=C2F)C(F)=C1F 10,11=10,20;20,21=21,22;22,23=23"
"C1C[N:62]2CC[NH:12][C:11]2=[N:10]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2CC[N:62]3CC[NH+:12]=[C:11]23)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
"CC[N:72](CC)[C:61]([CH-:10][C:81](C)=[O:82])=[O:62].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2>>CC[N:72](CC)[C:61]([CH:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C12CCCC2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"C1CCC[C:20](=[O:21])CC1.CC[O:73][C:61](/[C:10](Cl)=[C:11](\[O-:12])[O:82]CC)=[O:62]>>CC[O:73][C:61]([C:10](Cl)([C:11](=[O:12])[O:82]CC)[C:20]1([O-:21])CCCCCC1)=[O:62] 10,11=10,20;12=11,12;20,21=21"
"C1=C[C:72]2=[C:73](C=C1)[C:61](=[O:62])[N:10]=[C:11]2[O-:12].C[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>C[O:33][C:22](=[CH:21][CH2:20][N:10]1[C:11](=[O:12])[C:72]2=[C:73](C=CC=C2)[C:61]1=[O:62])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C.Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23]>>C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C.Cl[C:21]1=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32](=[O:33])[CH:20]1[H:10] 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.[C-:10]#[N:61]>>CC1=CC=C([S:32]([N-:21][CH:20]([C:10]#[N:61])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)=[C:11]([O-:12])[O:82]1.FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)([S:20]C(F)F)[C:11](=[O:12])[O:82]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:11]2=[N:10]CCC[N:12]2CC1.CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([N:10]2CCC[N+:12]3=[C:11]2CCCCC3)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
